### PR TITLE
[Merged by Bors] - feat(Data/UInt, Data/Fin/Basic) declarations

### PR DESCRIPTION
**Pull request by ammkrn**
Add new Fin instances, extend the UInt declarations to other UInt types using a macro. This incorporates @gebner's suggestions to add boolean methods for checking under/overflow, and adding separate instances of `Fin size`. I still can't figure out the elaboration issue mentioned [here on zulip](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/simp.20type.20annotations/near/260877092), so I can't use the macro on USize yet.

### CODE REVIEW

File: Mathlib/Data/Fin/Basic.lean [hunk 1]
```diff
@@ -48,34 +54,74 @@ lemma Fin.sub_def : ∀ (a b : Fin n), a - b = (Fin.mk ((a + (n - b)) % n) (Nat.
...
+
+@[simp] lemma Fin.one_mul (a : Fin n.succ) : 1 * a = a := by
 apply Fin.eq_of_val_eq
-simp only [Fin.mul_def, Nat.mul_comm]
+simp only [Fin.mul_def]
+cases n with
+| zero => simp only [Nat.eq_zero_of_le_zero (Nat.le_of_succ_le_succ a.isLt)]
+| succ n =>
+  have _ : (1 : Fin n.succ.succ).val = 1 := Nat.mod_eq_of_lt (Nat.succ_le_succ (Nat.succ_le_succ (Nat.zero_le n)))
+  rw [‹(1 : Fin n.succ.succ).val = 1›, Nat.one_mul, Nat.mod_eq_of_lt a.isLt]
```
Comment (gebner) [inline Mathlib/Data/Fin/Basic.lean:105]:
```suggestion
  have h1 : (1 : Fin n.succ.succ).val = 1 := Nat.mod_eq_of_lt (Nat.succ_le_succ (Nat.succ_le_succ (Nat.zero_le n)))
  rw [h1, Nat.one_mul, Nat.mod_eq_of_lt a.isLt]
```

File: Mathlib/Data/Fin/Basic.lean [hunk 2]
```diff
@@ -48,34 +54,74 @@ lemma Fin.sub_def : ∀ (a b : Fin n), a - b = (Fin.mk ((a + (n - b)) % n) (Nat.
...
 
 lemma Fin.add_assoc (a b c : Fin n) : (a + b) + c = a + (b + c) := by
 apply Fin.eq_of_val_eq
-simp only [Fin.mul_def, Fin.add_def, Nat.mod_add_mod, Nat.add_mod_mod, Nat.add_assoc]
+simp only [Fin.add_def, Nat.mod_add_mod, Nat.add_mod_mod, Nat.add_assoc]
 
-instance : Neg (Fin n) where
-  neg a := ⟨(n - a) % n, Nat.mod_lt _ (lt_of_le_of_lt (Nat.zero_le _) a.isLt)⟩
+lemma Fin.mul_assoc (a b c : Fin n) : (a * b) * c = a * (b * c) := by
+  apply Fin.eq_of_val_eq
```
Comment (gebner) [inline Mathlib/Data/Fin/Basic.lean:115]: The mathlib proof in Lean 3 seems to be much shorter: https://github.com/leanprover-community/mathlib/blob/3578403f0c5cfbef907d1632ee91cee4b3cc6596/src/data/zmod/basic.lean#L47-L49

File: Mathlib/Data/Fin/Basic.lean [hunk 3]
```diff
@@ -144,6 +193,19 @@ instance : SubNegMonoid (Fin n.succ) where
 instance : AddGroup (Fin n.succ) where
   add_left_neg := Fin.add_left_neg
 
+instance : Monoid (Fin n.succ) where
```
Comment (gebner) [inline Mathlib/Data/Fin/Basic.lean:196]: Now that I see it, we could factor out `CommSemigroup (Fin n)` and `AddCommSemigroup (Fin n)` instances (without the succ).

File: Mathlib/Data/UInt.lean [hunk 4]
```diff
@@ -1,10 +1,231 @@
...
+lemma UInt64.size_positive : 0 < UInt64.size := by decide
+
+lemma USize.size_positive : 0 < USize.size := by
+  simp only [USize.size]
+  cases System.Platform.numBits_eq with
+  | inl eq32 => simp [eq32]
+  | inr eq64 => simp [eq64]
+
+set_option hygiene false
+macro "genIntDeclars" typeName:ident : command => do
```
Comment (gebner) [inline Mathlib/Data/UInt.lean:21]:
```suggestion
local macro "genIntDeclars" typeName:ident : command => do
```

File: Mathlib/Data/UInt.lean [hunk 5]
```diff
@@ -1,10 +1,231 @@
...
+      instance : AddSemigroup $typeName where
+        add_assoc := add_assoc
+
+      @[simp] lemma nsmul_zero' (x : $typeName) : nsmul 0 x = 0 :=
+        congrArg mk (AddMonoid.nsmul_zero' x.val)
+
+      lemma nsmul_succ' (n : ℕ) (x : $typeName) : nsmul n.succ x = x + nsmul n x :=
+        congrArg mk (AddMonoid.nsmul_succ' n x.val)
+
+      @[simp] lemma add_left_neg (a : $typeName) : -a + a = 0 :=
```
Comment (gebner) [inline Mathlib/Data/UInt.lean:125]: This is already a simp lemma from the Group type class, we shouldn't add duplicate simp lemmas for every type.
```suggestion
      lemma add_left_neg (a : $typeName) : -a + a = 0 :=
```

It's also never used, and therefore should be removed entirely I think.

File: Mathlib/Data/UInt.lean [hunk 6]
```diff
@@ -1,10 +1,231 @@
...
+          simp only [‹a.val = aFin›]
+
+      lemma add_assoc (a b c : $typeName) : (a + b) + c = a + (b + c) :=
+        congrArg mk (Fin.add_assoc _ _ _)
+
+      lemma mul_comm (a b : $typeName) : a * b = b * a := congrArg mk (Fin.mul_comm _ _)
+
+      lemma add_comm (a b : $typeName) : a + b = b + a := congrArg mk (Fin.add_comm _ _)
+
+      @[simp] lemma add_zero (a : $typeName) : a + 0 = a := by
```
Comment (gebner) [inline Mathlib/Data/UInt.lean:75]: Can you inline these lemmas into the instances?  There is no reason to have separate lemmas for UInt* when we already have the same lemma for AddMonoid.

If you can't inline it, please make it at least `protected` (so that it doesn't pollute the namespace with `open UInt*`) and remove the `@[simp]`.

File: Mathlib/Data/Fin/Basic.lean [hunk 7]
```diff
@@ -48,34 +54,74 @@ lemma Fin.sub_def : ∀ (a b : Fin n), a - b = (Fin.mk ((a + (n - b)) % n) (Nat.
...
-simp only [Fin.add_def, Fin.val_zero, Nat.add_zero]
-exact Nat.mod_eq_of_lt a.isLt
+  apply Fin.eq_of_val_eq
+  simp only [Fin.add_def, Fin.val_zero, Nat.add_zero]
+  exact Nat.mod_eq_of_lt a.isLt
 
-@[simp] lemma Fin.zero_add (a : Fin n.succ) : 0 + a = a := by
-rw [Fin.add_comm]
-exact Fin.add_zero a
+@[simp] lemma Fin.zero_add (a : Fin n.succ) : 0 + a = a := (Fin.add_comm _ _) ▸ Fin.add_zero a
```
Comment (gebner) [inline Mathlib/Data/Fin/Basic.lean:83]:
```suggestion
lemma Fin.zero_add (a : Fin n.succ) : 0 + a = a := (Fin.add_comm _ _) ▸ Fin.add_zero a
```

File: Mathlib/Data/Fin/Basic.lean [hunk 8]
```diff
@@ -48,34 +54,74 @@ lemma Fin.sub_def : ∀ (a b : Fin n), a - b = (Fin.mk ((a + (n - b)) % n) (Nat.
...
+
+lemma Fin.mul_comm (a b : Fin n) : a * b = b * a := by
+  apply Fin.eq_of_val_eq
+  simp only [Fin.mul_def, Nat.mul_comm]
 
 @[simp] lemma Fin.zero_mul (a : Fin n.succ) : 0 * a = 0 := by
```
Comment (gebner) [inline Mathlib/Data/Fin/Basic.lean:89]:
```suggestion
lemma Fin.zero_mul (a : Fin n.succ) : 0 * a = 0 := by
```

File: Mathlib/Data/Fin/Basic.lean [hunk 9]
```diff
@@ -48,34 +54,74 @@ lemma Fin.sub_def : ∀ (a b : Fin n), a - b = (Fin.mk ((a + (n - b)) % n) (Nat.
...
-apply Fin.eq_of_val_eq
-simp only [Fin.mul_def, Fin.val_zero, Nat.zero_mul]
-simp [Nat.zero_mod]
+  apply Fin.eq_of_val_eq
+  simp only [Fin.mul_def, Fin.val_zero, Nat.zero_mul]
+  simp [Nat.zero_mod]
 
-lemma Fin.mul_comm (a b : Fin n) : a * b = b * a := by
+@[simp] lemma Fin.mul_zero (a : Fin n.succ) : a * 0 = 0 := by
```
Comment (gebner) [inline Mathlib/Data/Fin/Basic.lean:94]:
```suggestion
lemma Fin.mul_zero (a : Fin n.succ) : a * 0 = 0 := by
```

File: Mathlib/Data/Fin/Basic.lean [hunk 10]
```diff
@@ -48,34 +54,74 @@ lemma Fin.sub_def : ∀ (a b : Fin n), a - b = (Fin.mk ((a + (n - b)) % n) (Nat.
...
+  rw [Fin.mul_comm]
+  exact Fin.zero_mul a
+
+@[simp] lemma Fin.one_mul (a : Fin n.succ) : 1 * a = a := by
```
Comment (gebner) [inline Mathlib/Data/Fin/Basic.lean:98]:
```suggestion
lemma Fin.one_mul (a : Fin n.succ) : 1 * a = a := by
```

File: Mathlib/Data/Fin/Basic.lean [hunk 11]
```diff
@@ -48,34 +54,74 @@ lemma Fin.sub_def : ∀ (a b : Fin n), a - b = (Fin.mk ((a + (n - b)) % n) (Nat.
...
+    rw [(Nat.mod_eq_of_lt (Nat.lt_trans ‹a % m < m› mLt) : a % m % n.succ = a % m)]
+    exact Nat.mod_lt _ ‹0 < m›
+
 lemma Fin.add_comm (a b : Fin n) : a + b = b + a := by
-apply Fin.eq_of_val_eq
-simp only [Fin.add_def, Nat.add_comm]
+  apply Fin.eq_of_val_eq
+  simp only [Fin.add_def, Nat.add_comm]
 
 @[simp] lemma Fin.add_zero (a : Fin n.succ) : a + 0 = a := by
```
Comment (gebner) [inline Mathlib/Data/Fin/Basic.lean:78]:
```suggestion
lemma Fin.add_zero (a : Fin n.succ) : a + 0 = a := by
```

**Comment by ammkrn** [comment]
@gebner 

I'm working your suggestions in; I've also been trying to figure out the most comfortable way to work around the `Fin n+1` clash with `USize.size` since the latter is not defined in terms of a successor. If you add an `Inhabited (Fin n)` to the declarations that currently require `Fin n+1` you can just write them as `Fin n`. I redid everything tonight and it seems to work fine. Are there any problems with that approach? It also seems to get rid of the need for some of the duplicate class instances.

**Comment by gebner** [comment]
> If you add an `Inhabited (Fin n)` to the declarations that currently require `Fin n+1` you can just write them as `Fin n`. I redid everything tonight and it seems to work fine. Are there any problems with that approach?

That should work as well.  Is there a reason my suggestion at the lean issue doesn't work, i.e.?
```lean
instance : CommRing (Fin USize.size) := inferInstanceAs (CommRing (Fin (_ + 1)))
```
That still seems like the easiest solution to me and doesn't require changing anything else.

File: Mathlib/Data/UInt.lean [hunk 12]
```diff
@@ -1,10 +1,231 @@
...
+  simp only [USize.size]
+  cases System.Platform.numBits_eq with
+  | inl eq32 => simp [eq32]
+  | inr eq64 => simp [eq64]
+
+set_option hygiene false
+macro "genIntDeclars" typeName:ident : command => do
+  `(
+    namespace $typeName
+      instance : Zero (Fin size) := (Nat.succ_pred_eq_of_pos size_positive) ▸ inferInstance
```
Comment (gebner) [inline Mathlib/Data/UInt.lean:24]: I think I missed this earlier.
```suggestion
      instance : Zero (Fin size) := inferInstanceAs (Zero (Fin (_ + 1)))
```
The `▸` must be avoided in instances, because it generates an `eq.rec` application.  And in general, this `eq.rec` will not reduce definitionally, unless the types are definitionally equal.  But if the types are definitionally equal, then it's better to make that explicit by writing `inferInstanceAs`.

Comment (ammkrn) [reply Mathlib/Data/UInt.lean:24]: @gebner 

Thanks, I wasn't sure whether this would cause issues down the road, but I'll remove the `▸ ` uses. inferInstanceAs throws an error for USize.size:

```
instance : Zero (Fin USize.size) := inferInstanceAs (Zero (Fin (_ + 1)))

/-
type mismatch
  inferInstanceAs (Zero (Fin (?m.839 + 1)))
has type
  Zero (Fin (?m.839 + 1)) : Type
but is expected to have type
  Zero (Fin USize.size) : Type
-/
```

I'll inline all of the typeclass members that I can and protect the ones that are more tricky. In Lean 3, I sometimes found it difficult to figure out where a particular lemma was for a given type because instead of being `Fin.lemma` it was a member of some typeclass I wasn't able to guess, and instances don't always have guessable names. I understand why it's favorable outside of that to inline, so is the guidance that they should use librarySearch or find to look for lemmas?

Comment (gebner) [reply Mathlib/Data/UInt.lean:24]: Oh, USize is a problem indeed because `USize` does not definitionally reduce to `Nat.succ _`....

Now I recall what we do in mathlib sometimes, instead of `Inhabited (Fin n)` we write `Zero (Fin n)` but it's the same idea.  Maybe we should really go for this approach.

> I understand why it's favorable outside of that to inline, so is the guidance that they should use librarySearch or find to look for lemmas?

Yes, library search is always a good idea.  We're never going to duplicate all lemmas we have for groups (nor should we), so you're always going to have to look for lemmas about type classes.  And if you don't look beyond Fin, then you're missing out on great lemmas.

I agree that we should have better tooling for this.  Questions like: what type classes does a type implement? what lemmas are there about objects of a given type?  are hard to figure out at the moment.  Ideally those would be available in the documentation (and via commands).

Comment (ammkrn) [reply Mathlib/Data/UInt.lean:24]: I'm not sure how to get the `Zero (Fin n)` route to work without duplicating the basic implementations in the Fin module for both `Fin (n+1)` and an `[Inhabited (Fin n)]`; the `Zero` typeclass doesn't say anything about the element it produces, so even though `AddMonoid` inherits `Zero`, you need an actual instance of `Zero` to be able to prove e.g. `zero_add`, you just end up with a goal of `(a : Fin n), a + (?m.4307 : Fin n) = a`, where the metavariable is the `Zero.zero`.

The `[Inhabited (Fin n)]` route does add the extra typeclass bound, but `instance : Inhabited (Fin (no_index (n+1)))` already exists in core, so even if you add the Inhabited bound, you get all of the `Fin n.succ` instances for free. 

The fin module in mathlib3 seems to implement has_zero `fin n+1`, and I couldn't find any alternative uses of `has_zero` in the fin module. My copy of mathlib 3 is oldish, but this doesn't seem to work:

```
example (n : nat) [inhabited (fin n)] (a b : fin n) : a + b = b + a := 
begin
  library_search,
end
```

Comment (gebner) [reply Mathlib/Data/UInt.lean:24]: The `has_zero (fin n)` assumption is used in other parts of mathlib (namely Euclidean half spaces as a manifold with boundaries).  Okay, it's a somewhat obscure and otherwise unused part of mathlib but at least this wouldn't be the first time we use this approach.

> the Zero typeclass doesn't say anything about the element it produces

Ah I see.  We want to define `(0 : Fin n)` so that `(0 : Fin n).val = 0` is true definitionally.  And so it doesn't matter whether we assume `Inhabited` or `Zero` or even `Nonempty`, since we only need that type class instance to conclude `0 < n`.  Then the `Inhabited` assumption seems like the better idea.

Comment (ammkrn) [reply Mathlib/Data/UInt.lean]: I pushed the relevant changes in adaf634, inlining where possible which removed the bad `@[simp]` attributes. USize is now implemented as well and the macro is marked local, so I'll mark those issues as resolved.

File: Mathlib/Data/UInt.lean [hunk 13]
```diff
@@ -1,7 +1,178 @@
...
+      npow_succ' := fun _ _ => rfl
+    }
+
+    instance : CommMonoid $typeName where
+      mul_comm := mul_comm
+
+    lemma val_zero : (0 : $typeName).val = (0 : Fin size) := by
+      delta OfNat.ofNat
+      delta $deltaName
+      simp only [ofNat, instOfNat, Zero.zero]
```
Comment (gebner) [inline Mathlib/Data/UInt.lean:97]:
```suggestion
    lemma val_zero : (0 : $typeName).val = (0 : Fin size) := rfl
```
The two zeroes here should absolutely be definitionally equal, and indeed they are.

File: Mathlib/Data/UInt.lean [hunk 14]
```diff
@@ -1,7 +1,178 @@
...
+
+    lemma mk_zero_eq_zero : (mk (0 : Fin size)) = (0 : $typeName) := by
+     delta OfNat.ofNat
+     delta $deltaName
+     simp only [ofNat, instOfNat, Zero.zero]
```
Comment (gebner) [inline Mathlib/Data/UInt.lean:102]:
```suggestion
    lemma mk_zero_eq_zero : (mk (0 : Fin size)) = (0 : $typeName) := rfl
```
Same here.

**Comment by ammkrn** [comment]
e3697f9 implements `CommSemiring` for `Fin n` and the unsigned integer types.

**Comment by gebner** [comment]
bors merge
